US08633206B2
Diethyl (3R)-1-[({trans-4-[methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]cyclohexyl}methyl)sulfonyl]piperidin-3-yl phosphate
(3R)-1-[({trans-4-[methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]cyclohexyl}-methyl)sulfonyl]piperidin-3-ol (100 mg, 0.24 mmol) was suspended in dichloromethane (5 mL). Diisopropylethylamine (0.05 mL, 0.3 mmol) was added followed by diethyl chloro phosphate (0.036 mL, 0.24 mmol). The reaction mixture was stirred under nitrogen overnight. Methanol (1 mL) was added to the flask and the reaction mixture was concentrated in vacuo and the resulting residue was purified by preparative reverse phase HPLC. (100 mg, 75%) 1H NMR (400 MHz, DMSO-d6) ppm 1.19 (t, J=6.95 Hz, 6H) 1.23-1.29 (m, 3H) 1.40-1.49 (m, 1H) 1.64-1.76 (m, 5H) 1.80 (d, J=12.81 Hz, 1H) 1.87 (d, J=3.66 Hz, 1H) 2.02 (d, J=10.98 Hz, 2H) 2.58 (dd, J=10.98, 8.42 Hz, 1H) 2.73-2.81 (m, 1H) 2.88-2.99 (m, 2H) 3.15 (s, 3H) 3.44-3.55 (m, 2H) 4.05-4.12 (m, 2H) 4.14-4.21 (m, 2H) 5.00 (d, J=4.03 Hz, 1H) 6.79 (br. s., 1H) 7.27 (dd, J=3.66, 2.20 Hz, 1H) 8.23 (s, 1H). LCMS m/z 544.8 (M+H calcd for C23H38N5O6PS requires 543.2). LCMS (C-18 column, gradient elution 5 minute chromatograph, 95:5 to 5:95 water/acetonitrile, retention time 1.81 min).

reactant | (3R)-1-[({trans-4-[methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]cyclohexyl}-methyl)sulfonyl]piperidin-3-ol | 0.24 mmol, 100 mg | CN([C@@H]1CC[C@H](CC1)CS(=O)(=O)N1C[C@@H](CCC1)O)C=1C2=C(N=CN1)NC=C2 | C19H29N5O3S
reactant | Diisopropylethylamine | 0.3 mmol, 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethyl chloro phosphate | 0.24 mmol, 0.036 mL | P(=O)(OCC)(OCC)OCl | C4H10ClO4P
reactant | Methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Diethyl (3R)-1-[({trans-4-[methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]cyclohexyl}methyl)sulfonyl]piperidin-3-yl phosphate | P(=O)(OCC)(OCC)O[C@H]1CN(CCC1)S(=O)(=O)C[C@@H]1CC[C@H](CC1)N(C=1C2=C(N=CN1)NC=C2)C | C23H38N5O6PS
